US05350872
Preparation of 5-phenyl-4-pentenoic acid
7.2 g (0.05 mol) of Meldrum's acid and 6.6 g (6.3 ml, 0.05 mol) of cinnamaldehyde were weighed in to 50 ml of the mixture of formic acid and triethylamine prepared as described in Example 1. The reaction mixture was heated to 95° C. during 1 hour and maintained at the same temperature for 2 hours. The product was separated according to Example 1.

reactant | Meldrum's acid | 0.05 mol, 7.2 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | cinnamaldehyde | 0.05 mol, 6.3 ml, 6.6 g | C(C=CC1=CC=CC=C1)=O | C9H8O
reactant | formic acid | C(=O)O | CH2O2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 5-phenyl-4-pentenoic acid | C1(=CC=CC=C1)C=CCCC(=O)O | C11H12O2
